US20010027196A1
To a stirred suspension of 2.00 g (9.97 mmol) 2-amino-4-chloro-6-methylsulfanyl-pyrimidine-5-carbonitrile in 6 ml dichloromethane and 20 ml DMF was added 5.21 g (19.9 mmol) 3-phenyl-2-(phenylsulfonyl)oxaziridine and stirring continued for 16 hours at room temperature. The reaction mixture was then concentrated in vacuo and the residue recrystallised from ether/dichloromethane to afford 1.50 g (69%) 2-amino-4-chloro-6-methanesulfinyl-pyrimidine-5-carbonitrile as a white crystalline solid. ES-MS m/e (%): 239 (M+Na+, 45), 234 (M+NH4+, 55), 217 (M+H+, 100).

reactant | 2-amino-4-chloro-6-methylsulfanyl-pyrimidine-5-carbonitrile | 9.97 mmol, 2.00 g | NC1=NC(=C(C(=N1)Cl)C#N)SC | C6H5ClN4S
reactant | 3-phenyl-2-(phenylsulfonyl)oxaziridine | 19.9 mmol, 5.21 g | C1(=CC=CC=C1)C1N(O1)S(=O)(=O)C1=CC=CC=C1 | C13H11NO3S
solvent | dichloromethane | 6 ml | ClCCl | CH2Cl2
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 2-amino-4-chloro-6-methanesulfinyl-pyrimidine-5-carbonitrile | 1.50 g, 69% | NC1=NC(=C(C(=N1)Cl)C#N)S(=O)C | C6H5ClN4OS
